US08017611B2
Sodium triacetoxyhydroborate (25.9 mg) was added to 1-(4-bromo-3-methoxy-phenyl)piperazine (30 mg), N-ethyl-N-isopropyl-propan-2-amine (0.030 ml) and 37% aqueous formaldehyde (8.01 μl) dissolved in dichloromethane (1 ml). The resulting mixture was stirred at 25° C. for 2 hours. The reaction mixture was quenched with a saturated aqueous solution of sodium hydrogencarbonate (5 ml) and extracted with ethyl acetate (2×10 ml). The combined organic phases were dried over magnesium sulfate and concentrated to afford the crude 1-(4-bromo-3-methoxy-phenyl)-4-methyl-piperazine (25.00 mg). NMR Spectrum: (CDCl3) 2.38 (s, 3H), 2.60 (bs, 4H), 3.17-3.28 (m, 4H), 3.88 (s, 3H), 6.41 (dd, 1H), 6.47 (d, 1H), 7.36 (d, 1H); Mass spectrum: M+H+ 286

reactant | Sodium | [Na] | Na
reactant | 1-(4-bromo-3-methoxy-phenyl)piperazine | 30 mg | BrC1=C(C=C(C=C1)N1CCNCC1)OC | C11H15BrN2O
reactant | N-ethyl-N-isopropyl-propan-2-amine | 0.030 ml | C(C)N(C(C)C)C(C)C | C8H19N
reactant | formaldehyde | 8.01 μl | C=O | CH2O
solvent | dichloromethane | 1 ml | ClCCl | CH2Cl2
product | 1-(4-bromo-3-methoxy-phenyl)-4-methyl-piperazine | 25.00 mg | BrC1=C(C=C(C=C1)N1CCN(CC1)C)OC | C12H17BrN2O
